US05453423
0.023 ml of concentrated sulfuric acid are cautiously added to a solution of 4 g of 2,2-dimethylmalonic acid in 30 ml of a 1:2 absolute ethanol/toluene mixture. The reaction mixture is refluxed, distilling the azeotropic water/toluene mixture and adding every few an ethanol/toluene mixture. After 3 hours, the reaction mixture is added with 50 ml of water and extracted with ethyl acetate (3×15 ml). The combined organic extracts are dried over sodium sulfate and solvent is evaporated off under reduced pressure. The residue is purified by silica gel chromatography (eluent 2:1 hexane/AcOEt). 3.3 g of 2,2-dimethylmalonic acid diethyl ester are obtained.

reactant | sulfuric acid | 0.023 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,2-dimethylmalonic acid | 4 g | CC(C(=O)O)(C(=O)O)C | C5H8O4
reactant | ethanol toluene | 30 ml | C(C)O.C1(=CC=CC=C1)C
product | 2,2-dimethylmalonic acid diethyl ester | 3.3 g | C(C)OC(C(C(=O)OCC)(C)C)=O | C9H16O4
